US07732456B2
(1) Preparation of 2-chloro-4-(4-fluorobenzyloxy)pyrimidine
n-Butyl lithium (2.6 M n-hexane solution, 10.1 mL) was added to tetrahydrofuran solution (12 mL) of 4-fluorobenzyl alcohol (3.08 mL) at −78° C., and stirred at the same temperature for 30 minutes. This reaction liquid was gradually added to tetrahydrofuran suspension (24 mL) of 2,4-dichloropyrimidine (4.0 g) and stirred at room temperature for 2 hours. After addition of water, the reaction liquid was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. Concentrating the solvent under reduced pressure, the residue was crystallized from mixed solvent of chloroform and hexane to provide the title compound (4.36 g, 68%).

reactant | n-Butyl lithium | 2.6 M, 10.1 mL | C(CCC)[Li]
reactant | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
reactant | 4-fluorobenzyl alcohol | 3.08 mL | FC1=CC=C(CO)C=C1 | C7H7FO
reactant | tetrahydrofuran | 24 mL | O1CCCC1 | C4H8O
reactant | 2,4-dichloropyrimidine | 4.0 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | water | O | H2O
product | 2-chloro-4-(4-fluorobenzyloxy)pyrimidine | 4.36 g, 68% | ClC1=NC=CC(=N1)OCC1=CC=C(C=C1)F | C11H8ClFN2O
